US04336195
The procedure described in Example 1 was followed in reacting 0.05 g mole of α,α'-dichloro-o-xylene with 0.06 g mole of dimethyl carbonate in 50 ml of N,N-dimethylformamide. After 22 hours, the reaction mixture was poured into 100 ml of water and the organic portion was extracted from the mixture with three 5050 ml portions of hexane. The combined extracts were dried over MgSO4 and the hexane was distilled off. The residue was distilled under reduced pressure to obtain 2.29 g (37 percent yield) of phthalan (1,3-dihydroisobenzofuran), b.p. 95° C./30 mm.

reactant | α,α'-dichloro-o-xylene | ClCC=1C(=CC=CC1)CCl | C8H8Cl2
reactant | dimethyl carbonate | C(OC)(OC)=O | C3H6O3
reactant | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | phthalan | 2.29 g, 37 percent yield | C1C2=CC=CC=C2CO1 | C8H8O
